US08455475B2
tert-Butyl 9-(4-methylpiperazine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate
O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.32 g, 1 eq.) and 1-hydroxybenzotriazole hydrate (0.14 g, 1 eq.) were added to a solution of 3-(tert-butoxycarbonyl)-3-azaspiro[5.5]undecane-9-carboxylic acid (commercially obtainable from Anthem, Order No. A1106) (0.3 g, 1 eq.) in tetrahydrofuran (20 ml) and the reaction mixture was stirred at room temperature for 0.5 h. 1-Methylpiperazine (0.11 ml, 1 eq.) and N-ethyl-diisopropylamine (0.17 ml, 1 eq.) were then added and the mixture was stirred at room temperature overnight. For working up, the reaction mixture was concentrated, methylene chloride and sat. NaHCO3 solution were added to the residue and the aqueous phase was extracted with methylene chloride a further 2×. The combined organic phases were washed 1× with sat. NaCl solution, dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography (silica; ethyl acetate/ethanol/ammonia (25% aq.) 10:1:0.05) in order to obtain the desired product (AMN-10). Yield: 0.22 g (101%)

reactant | O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.32 g, 1 eq. | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.14 g, 1 eq. | O.ON1N=NC2=C1C=CC=C2
reactant | 3-(tert-butoxycarbonyl)-3-azaspiro[5.5]undecane-9-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)C(=O)O | C16H27NO4
reactant | 1-Methylpiperazine | 0.11 ml, 1 eq. | CN1CCNCC1 | C5H12N2
reactant | N-ethyl-diisopropylamine | 0.17 ml, 1 eq. | C(C)N(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-Butyl 9-(4-methylpiperazine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate | CN1CCN(CC1)C(=O)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C21H37N3O3
